US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-trifluoromethoxyaniline were reacted to yield N2,N4-bis(3-trifluoromethoxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.03 (bd, 1H), 7.62 (bs, 2H), 7.48 (bd, 1H), 7.39 (t, 1H, J=8.1 Hz), 7.34 (m, 1H), 7.29 (t, 1H, J=7.5 Hz), 7.01 (m, 2H), 6.88 (m, 2H); 19F NMR (CDCl3): −16447 (s, 3F), −16459 (s, 3F), −46738 (s, 1F); LCMS: ret. time: 33.77 min.; purity: 93%; MS (m/e): 449 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-trifluoromethoxyaniline | FC(OC=1C=C(N)C=CC1)(F)F | C7H6F3NO
product | N2,N4-bis(3-trifluoromethoxyphenyl)-5-fluoro-2,4-pyrimidinediamine | FC(OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)OC(F)(F)F)F)(F)F | C18H11F7N4O2
